US04997840
4-Chloro-7-trifluoromethoxyquinoline-1-oxide (9.4 g) and potassium hydroxide (20.0 g) were dissolved in industrial methylated spirit (320 ml) and the solution was heated under reflux for 90 minutes. The solvent was removed by evaporation and the residue dissolved in water (100 ml). Glacial acetic acid (40 ml) was added at 0 to 5°, the precipitate collected, washed with water (2×10 ml) and crystallised from methanol (120 ml) to give the novel compound 4-hydroxy-7-trifluoromethoxyquinoline-1-oxide, m.p. 80°-181°.

reactant | 4-Chloro-7-trifluoromethoxyquinoline-1-oxide | 9.4 g | ClC1=CC=[N+](C2=CC(=CC=C12)OC(F)(F)F)[O-] | C10H5ClF3NO2
reactant | potassium hydroxide | 20.0 g | [OH-].[K+]
product | 4-hydroxy-7-trifluoromethoxyquinoline-1-oxide | OC1=CC=[N+](C2=CC(=CC=C12)OC(F)(F)F)[O-] | C10H6F3NO3
